US09428502B2
Compound 43.1. t-Butyl 3-(4-bromophenyl)-3-hydroxyazetidine-1-carboxylate
Into a 1-L 3-necked round-bottom flask, purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 1-bromo-4-iodobenzene (25.0 g, 88.4 mmol) in tetrahydrofuran/diethyl ether (400/200 mL). The solution was cooled to −78° C. then n-BuLi (2.5 M, 37.1 mL, 92.8 mmol) was added drop-wise over 10 min. To the resulting mixture was added tert-butyl 3-oxoazetidine-1-carboxylate (16.6 g, 97.0 mmol) in THF (100 mL) drop-wise at −78° C. The resulting mixture was stirred for 1.5 h at −78° C., then carefully quenched with water (300 mL). The aqueous phase was extracted with ethyl acetate (200 mL) and the combined organic layers were washed with brine (2×100 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography with ethyl acetate/petroleum ether (1:20-1:5) as the eluent followed by re-crystallized from ethyl acetate:PE in the ratio of 1:100 to yield 8.0 g (28%) of the title compound as a white solid.

reactant | 1-bromo-4-iodobenzene | 88.4 mmol, 25.0 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | n-BuLi | 92.8 mmol, 2.5 M, 37.1 mL | [Li]CCCC
reactant | tert-butyl 3-oxoazetidine-1-carboxylate | 97.0 mmol, 16.6 g | O=C1CN(C1)C(=O)OC(C)(C)C | C8H13NO3
solvent | tetrahydrofuran diethyl ether | 200 mL | O1CCCC1.C(C)OCC
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | t-Butyl 3-(4-bromophenyl)-3-hydroxyazetidine-1-carboxylate | 8.0 g, 28% | BrC1=CC=C(C=C1)C1(CN(C1)C(=O)OC(C)(C)C)O | C14H18BrNO3
